datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH3:10])[O-:23].CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:81](=[O:82])[N-:10][S:61]2(=[O:62])=[O:72].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([N:10]2[S:61](=[O:62])(=[O:72])C3=C(C=CC=C3)[C:81]2=[O:82])N2N=N[N:35]=[C:34]21 10=20;20,21=21,22;22,23=23"
"CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CC[O:92][C:61]([C:10](OC)([CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>O=C(OCC1=CC=CC=C1)[NH+:12]=[C:11]([CH2:10][CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10][CH:61]=[C:62](C)[N:12]1C.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:11]1=[N+:12](C)[C:62](C)=[CH:61][CH:10]1[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:11](=[CH2:10])[NH:12][C:63](C)=[O:64].CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[CH2:10][C:11](C(C)(C)C)=[NH+:12][C:63](C)=[O:64])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>CC(C)[C:11]([CH2:10][CH:20](C1=CC=CC=C1)[N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[C:61]1=[N:62][C:72](C)=[CH:71][N-:10]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:61]1=[N:62][C:72](C)=[CH:71][N:10]1[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1 10=20
"C1CC[C:21](=[O:20])C1.CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2>>CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N+:10]2[O:20][C-:21]1CCCC1 10=20;20,21=21"
"C[C:22]([CH:21]=[CH2:20])=[O:23].[S-:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[C:22](=[CH:21][CH2:20][S:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1CCC[C:20](=[O:21])CC1.[O-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1>>C1CCC[C:20]([O:10][C:61]2=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]2)([O-:21])CC1 10=20;20,21=21"
"C[Si:63](C)(C)[O:12]/[C:11]1=[CH:10]/CCCCCC1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCCCC[CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.C[Si:81](C)(C)/[CH:10]=[CH:11]/[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[Si:81](C)(C)[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[CH:20]1CCCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"C[C:10](C)=[CH:11][N:12]1CCOCC1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:10](C)([CH:11]=[N+:12]1CCOCC1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CCC[C:20](C)=[O:21].[H:10][BH3-:11]>>CCC[C:20](C)([H:10])[O-:21].[BH3:11] 10,11=10,20;20,21=21"
